US07666896B2
Preparation of N—[(S)-1-carbethoxybutyl]-(S)-alanine
L-Norvaline ethyl ester hydrochloride (50 gm) was dissolved in ethanol (600 ml). Sodium hydroxide (15.4 gm) dissolved in ethanol (500 ml) was added to the above at 10° C. and stirred for 30 minutes. Pyruvic acid (34.5 gm) solution in ethanol (200 ml) was then added to above reaction mass at 10° C. and stirred for 30 minutes. The reaction mass was then transferred to a hydrogenator along with 10% palladium on carbon (5 gm) and hydrogenated at 7 bar for 8 hours. The contents were filtered over celite and washed with ethanol (200 ml). The filtrate was concentrated completely under vacuum at about 50° C. Acetone (800 ml) was added to the residue and the contents refluxed for 1 hour and then cooled to room temperature and filtered to obtain the product (30 gm) as white crystals.

reactant | L-Norvaline ethyl ester hydrochloride | 50 gm | Cl.C(C)OC([C@@H](N)CCC)=O
reactant | Sodium hydroxide | 15.4 gm | [OH-].[Na+]
reactant | Pyruvic acid | 34.5 gm | C(C(=O)C)(=O)O | C3H4O3
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 5 gm | [Pd] | Pd
product | N—[(S)-1-carbethoxybutyl]-(S)-alanine | 30 gm | C(=O)(OCC)[C@H](CCC)N[C@@H](C)C(=O)O | C10H19NO4
